US06545147B1
Preparation of 2,6-bis(4,7-dimethyl-1,4,7-triazacyclonon-1-ylmethyl)-4-methylanisole (dtma)
0.31 g (1 mmol) of 2,6-bis bromomethyl-4-methylanisole are added over the course of 30 min to a solution of 0.31 g (2 mmol) of 1,4-dimethyl-1,4,7-triazacyclononane, 0.14 g of K2CO3 (1 mmol) in 10 ml of toluene, and the reaction mixture is refluxed under a protective gas for 2 days.

reactant | 2,6-bis bromomethyl-4-methylanisole | 1 mmol, 0.31 g | BrCC1=C(C(=CC(=C1)C)CBr)OC | C10H12Br2O
reactant | 1,4-dimethyl-1,4,7-triazacyclononane | 2 mmol, 0.31 g | CN1CCN(CCNCC1)C | C8H19N3
reactant | K2CO3 | 1 mmol, 0.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis(4,7-dimethyl-1,4,7-triazacyclonon-1-ylmethyl)-4-methylanisole | CN1CCN(CCN(CC1)C)CC1=C(C(=CC(=C1)C)CN1CCN(CCN(CC1)C)C)OC | C26H48N6O
